US04659709
To a solution of 1 g of ethyl 5-(N,N-dimethylsulfamoyl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylate (Ia-1) dissolved in 9 ml of tetrahydrofuran is added 14 ml of 15% aqueous potassium carbonate and the mixture stirred for 72 hours at room temperature. The reaction mixture is condensed under reduced pressure to leave residue, which is made acid (pH 5.0) with 10% hydrochloric acid and extracted with ethyl acetate. The organic layer is dried and evaporated under reduced pressure to leave an oil, which is then recrystallized from either to give 0.868 g of 5-(N,N-dimethylsulfamoyl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylic acid (I b-28), yielded in 94%, m.p. 154° C.

reactant | ethyl 5-(N,N-dimethylsulfamoyl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylate | 1 g | CN(S(=O)(=O)C=1C(=C(C2=C(CC(O2)C(=O)OCC)C1)Cl)Cl)C | C13H15Cl2NO5S
reactant | potassium carbonate | 14 ml | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | 5-(N,N-dimethylsulfamoyl)-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylic acid | 0.868 g | CN(S(=O)(=O)C=1C(=C(C2=C(CC(O2)C(=O)O)C1)Cl)Cl)C | C11H11Cl2NO5S
